US05399712
165 mg (1.38 mmol) of oxalyl chloride were added to a stirred solution of 300 mg (1.24 mmol) of 8-acetoxymethyl-6,7,8,9-tetrahydropyrido[1,2-a]indole in 50 ml of dichloromethane at 0° C. The resulting solution was stirred for 15 minutes and the solvent was removed by evaporation. The residue was dissolved in 30 ml of toluene and added dropwise to a stirred solution of 496 mg (4.96 mmol) of triethylamine and mg (1.31 mmol) of isopropyl 3-indoleacetimidate hydrochloride in 20 ml of toluene. After 18 hours, 1.16 g (6.2 mmol) of p-toluenesulfonic acid were added and stirring was continued for 1 hour. The mixture was then partitioned between dichloromethane and water. The organic phase was dried over sodium sulfate and evaporated to dryness. The residue was purified by flash chromatography on silica gel using ethyl acetate/petroleum ether (1:1) for the elution to give 170 mg (38%) of 3-[8-(acetoxymethyl) -6,7,8,9-tetrahydropyrido[1,2-a]indol-10-yl]-4-[3-indolyl)-1H-pyrrole-2,5-dione in the form of an orange colored solid of melting point 264°-265° C.

reactant | oxalyl chloride | 1.38 mmol, 165 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 8-acetoxymethyl-6,7,8,9-tetrahydropyrido[1,2-a]indole | 1.24 mmol, 300 mg | C(C)(=O)OCC1CC=2N(C3=CC=CC=C3C2)CC1 | C15H17NO2
reactant | triethylamine | 4.96 mmol, 496 mg | C(C)N(CC)CC | C6H15N
reactant | isopropyl 3-indoleacetimidate hydrochloride | 1.31 mmol | Cl.N1C=C(C2=CC=CC=C12)CC(OC(C)C)=N
reactant | p-toluenesulfonic acid | 6.2 mmol, 1.16 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[8-(acetoxymethyl) -6,7,8,9-tetrahydropyrido[1,2-a]indol-10-yl]-4-[3-indolyl)-1H-pyrrole-2,5-dione | 170 mg, 38% | C(C)(=O)OCC1CC=2N(C3=CC=CC=C3C2C=2C(NC(C2C2=CNC3=CC=CC=C23)=O)=O)CC1 | C27H23N3O4
